US06689888B2
Preparation of Intermediate [2-(4-Pyrazol-3-yl-phenoxy)-ethyl]-carbamic Acid Benzyl Ester:
A round-bottomed flask was charged with 4-pyrazol-3-yl-phenol (840 mg, 5.25 mmol), potassium carbonate (2.17 g, 15.7 mmol), and methanesulfonic acid 2-benzyloxycarbonylamino-ethyl ester (C. A. Townsend, et al., Tetrahedron, 47, 2591 (1991)) (2.86 g, 10.5 mmol) in 10.5 ml of dry dimethylsulfoxide. The resulting solution was heated to about 70° C. for about four days. The reaction mixture was then poured into 1 N HCL, and the aqueous phase was extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (methylene chloride to 2% methanol/methylene chloride) to afford 1.09 g (61% yield) of desired product. LRMS ([M+H+])=338.1.

reactant | 4-pyrazol-3-yl-phenol | 5.25 mmol, 840 mg | N1N=C(C=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | potassium carbonate | 15.7 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic acid 2-benzyloxycarbonylamino-ethyl ester | C(C1=CC=CC=C1)OC(=O)NCCOS(=O)(=O)C | C11H15NO5S
solvent | dimethylsulfoxide | 10.5 ml | CS(=O)C | C2H6OS
product | [2-(4-Pyrazol-3-yl-phenoxy)-ethyl]-carbamic Acid Benzyl Ester | 1.09 g, 61% yield | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)C1=NNC=C1)=O | C19H19N3O3
